US08378118B2
Step-III: Synthesis of 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan
To a mixture of 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan-1-one (1.8 gm, 0.0057 mole) and Triethyl silane (9.0 ml, 0.0564 mole), Trifluoroacetic acid (18 ml) was added at 20-25° C. The reaction mixture was heated to 60-65° C. for 3 hours and then poured into saturated Sodium bicarbonate solution. It was extracted with Ethylacetate (2×100 ml), dried over Sodium sulphate, distilled under vacuum to give a crude product which was purified by column chromatography using Ethyl acetate:Hexane (2:98) as a mobile phase. The collected fractions were distilled under vacuum to give 1.2 gm of desired product as a solid.

reactant | 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan-1-one | 0.0057 mole, 1.8 gm | COC1=C2CC(C(C2=CC=C1C)=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H15NO5
reactant | Triethyl silane | 0.0564 mole, 9.0 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic acid | 18 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 4-Methoxy-5-methyl-2-(4-nitro-phenoxy)-indan | 1.2 gm, Yield: 69.7% | COC1=C2CC(CC2=CC=C1C)OC1=CC=C(C=C1)[N+](=O)[O-] | C17H17NO4
